US09447083B2
4-Bromo-2,6-dimethylphenol (0.5 g, 2.5 mmol) was dissolved in dimethoxyethane/water (2:1). pyrimidin-5-ylboronic acid (0.37 g, 2.8 mmol), Pd(dppf)Cl2 (0.02 g, 0.13 mmol) and sodium carbonate (0.79 g, 7.5 mmol) were added thereto, followed by reacting in microwave reactor at 120° C. for 15 minutes. After the completion of the reaction, the reaction mixture was added with water, and extracted with ethyl acetate. The obtained organic layer was dried over magnesium sulfate, concentrated under reduced pressure, and purified by column chromatography to obtain 2,6-dimethyl-4-(pyrimidin-5-yl)phenol (0.1 g, 20%).

reactant | 4-Bromo-2,6-dimethylphenol | 2.5 mmol, 0.5 g | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | pyrimidin-5-ylboronic acid | 2.8 mmol, 0.37 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | sodium carbonate | 7.5 mmol, 0.79 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane water | C(OC)COC.O
catalyst | Pd(dppf)Cl2 | 0.13 mmol, 0.02 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,6-dimethyl-4-(pyrimidin-5-yl)phenol | 0.1 g, 20% | CC1=C(C(=CC(=C1)C=1C=NC=NC1)C)O | C12H12N2O
